US07816387B2
N-α-Butoxycarbonyl-trans-4-(3-chlorophenoxy)-L-proline methylester
To a mixture of N-α-butoxycarbonyl-cis-4-hydroxy-L-proline methylester 123 mg (0.50 mmol), 3-chlorophenol 0.058 ml (0.55 mmol), triphenylphosphine 184 mg (0.70 mmol) and tetrahydrofuran 2 ml was added diisopropyl azodicarboxylate 0.150 ml (0.75 mmol) dropwise under ice-cooling and the mixture was stirred at room temperature for 16 hours. The reaction solution was concentrated and the residue was purified by a column chromatography on silica gel (eluted with a mixed solvent of ethyl acetate and hexane) to give 155 mg (0.44 mmol) of the title compound (yield: 87%).

reactant | N-α-butoxycarbonyl-cis-4-hydroxy-L-proline methylester | 0.50 mmol, 123 mg | COC([C@H]1N(C[C@H](C1)O)C(=O)OCCCC)=O | C11H19NO5
reactant | 3-chlorophenol | 0.55 mmol, 0.058 ml | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | triphenylphosphine | 0.70 mmol, 184 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.75 mmol, 0.150 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-α-Butoxycarbonyl-trans-4-(3-chlorophenoxy)-L-proline methylester | 0.44 mmol, 155 mg, yield: 87% | COC([C@H]1N(C[C@@H](C1)OC1=CC(=CC=C1)Cl)C(=O)OCCCC)=O | C17H22ClNO5
